US07691882B2
4-(4-Methyl-pyridin-2-yloxymethyl)-benzaldehyde
To a tetrahydrofuran (150 mL) solution of 2-(4-bromo-benzyloxy)-4-methyl-pyridine (5.70 g, 20.5 mmol) described in Manufacturing Example 43-1-1 was added dropwise n-butyl lithium (2.67 M n-hexane solution, 9.21 mL, 24.6 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere, which was stirred for 20 minutes at −78° C. N,N-dimethylformamide (3.16 mL, 41.0 mmol) was then added dropwise thereto and stirred for 10 minutes at −78° C. The reaction solution was allowed to room temperature, water was added, and the solution was extracted with ethyl acetate. The organic layer was separated and washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (2.58 g, 55.4%).

reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 2-(4-bromo-benzyloxy)-4-methyl-pyridine | 20.5 mmol, 5.70 g | BrC1=CC=C(COC2=NC=CC(=C2)C)C=C1 | C13H12BrNO
reactant | n-butyl lithium | 24.6 mmol, 2.67 M, 9.21 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 41.0 mmol, 3.16 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-Methyl-pyridin-2-yloxymethyl)-benzaldehyde | 2.58 g, 55.4% | CC1=CC(=NC=C1)OCC1=CC=C(C=O)C=C1 | C14H13NO2
